US07244759B2
A solution of (1S)-7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one (0.5 g, 1.2 mmol) and 2-methoxyacetyl chloride (0.3 mL, 3.2 mmol) in THF (6 mL) was heated to reflux for 17 hours. To the mixture was added methanol (5 mL). The solvent was removed in vacuo to give a solid, which was purified with Prep HPLC to give (1S)-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-methoxy-acetamide as an off-white solid (180 mg, 32% yield): mp 151-153° C.; 1H NMR (CDCl3) δ 1.47 (t, J=7 Hz, 3H, CH3), 2.84 (s, 3H, CH3), 3.56 (s, 3H, CH3), 3.77 (dd, J=5, 14 Hz, 1H, CHH), 3.85 (s, 3H, CH3), 4.08 (s, 2H, CH2), 4.12 (q, J=7 Hz, 2H, CH2), 4.53 (dd, J=10, 15 Hz, 1H, CHH), 5.87 (dd, J=5, 10 Hz, 1H, NCH), 6.81-6.82 (m, 1H, Ar), 7.10-7.13 (m, 2H, Ar), 7.51 (d, J=7 HZ, 1H, Ar), 7.67 (t, J=8 Hz, 1H, Ar), 8.81 (d, J=8 Hz, 1H, Ar), 10.42 (s, 1H, NH); 13C NMR (CDCl3) δ 14.69, 41.59, 48.80, 54.81, 55.96, 59.74, 64.55, 72.18, 111.49, 112.53, 116.06, 118.59, 120.49, 125.09, 129.39, 131.33, 136.02, 136.59, 148.62, 149.77, 167.57, 168.89, 169.16. Analy. calculated for C23H26N2O8S: C, 56.32; H, 5.34, N 5.71. Found: C, 56.23; H, 5.30; N, 5.56.

reactant | (1S)-7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one | 1.2 mmol, 0.5 g | NC=1C=CC=C2CN(C(C12)=O)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC | C20H24N2O5S
reactant | 2-methoxyacetyl chloride | 3.2 mmol, 0.3 mL | COCC(=O)Cl | C3H5ClO2
reactant | methanol | 5 mL | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (1S)-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-methoxy-acetamide | 180 mg, 32% yield | C(C)OC=1C=C(C=CC1OC)[C@@H](CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(COC)=O)=O | C23H26N2O8S
